US06734180B1
Using 2-(tert-butoxycarbonylamino)indan-5-carboxylic acid morpholinamide (1.0 g, 2.7 mmol), 4N hydrochloric acid-dioxane (12 ml) and acetic acid (36 ml), a similar procedure to Example 24 was carried out to obtain 2-aminoindan-5-carboxylic acid morpholinamide hydrochloride (750 mg, 2.7 mmol) having the following physical properties:

reactant | 2-(tert-butoxycarbonylamino)indan-5-carboxylic acid morpholinamide | 2.7 mmol, 1.0 g | N1(CCOCC1)C(=O)N.C(C)(C)(C)OC(=O)NC1CC2=CC=C(C=C2C1)C(=O)O
reactant | hydrochloric acid dioxane | 4N, 12 ml | Cl.O1CCOCC1
solvent | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
product | 2-aminoindan-5-carboxylic acid morpholinamide hydrochloride | 2.7 mmol, 750 mg | Cl.N1(CCOCC1)C(=O)N.NC1CC2=CC=C(C=C2C1)C(=O)O | InChI=1S/C10H11NO2.C5H10N2O2.ClH/c11-9-4-6-1-2-7(10(12)13)3-8(6)5-9;6-5(8)7-1-3-9-4-2-7;/h1-3,9H,4-5,11H2,(H,12,13);1-4H2,(H2,6,8);1H
